US04410520
A solution of ethyl 2-t-butyloxycarbonylamino-4-(o-nitrophenyl)butyrate (13.0 g) in ethanol (300 ml) is hydrogenated at room temperature and atmospheric pressure, using 10% palladium on charcoal (1 g) as catalyst, until uptake ceases. The catalyst is filtered off. Evaporation of the solvent gives ethyl t-butyloxycarbonylamino-4-(o-aminophenyl)butyrate which is used without further purification for the next step.

reactant | ethyl 2-t-butyloxycarbonylamino-4-(o-nitrophenyl)butyrate | 13.0 g | C(C)(C)(C)OC(=O)NC(C(=O)OCC)CCC1=C(C=CC=C1)[N+](=O)[O-] | C17H24N2O6
solvent | ethanol | 300 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 1 g | [Pd] | Pd
product | ethyl t-butyloxycarbonylamino-4-(o-aminophenyl)butyrate | C(C)(C)(C)OC(=O)NC(C(=O)OCC)CCC1=C(C=CC=C1)N | C17H26N2O4
